US07569600B2
A suspension of 3-amino-5-bromo-thiophene-2-carboxylic acid methyl ester (0.5 g, 2.12 mmol) in dry THF (0.6 mL) was treated with 2,2-dimethyl-[1,3]dioxan-5-one (253 μl, 2.12 mmol), followed by dibutyltin dichloride (32 mg, 0.11 mmol). After 5 min phenyl silane (280 μl, 2.27 mmol) was added and the reaction was stirred at room temperature for 3 days. It was dissolved in ethyl acetate (100 mL), washed with NaHCO3 solution and brine. The organic layer was separated, dried over MgSO4, evaporated and left on vacuum pump overnight. The residue was triturated with hexane-ether (4:1) mixture (2×100 mL). The soluble portion was evaporated and purified by chromatography over silica gel (hexane:ethyl acetate—95:5) yielding pure 5-bromo-3-(2,2-dimethyl-[1,3]dioxan-5-ylamino)-thiophene-2-carboxylic acid methyl ester (220 mg, 29%).

reactant | 3-amino-5-bromo-thiophene-2-carboxylic acid methyl ester | 2.12 mmol, 0.5 g | COC(=O)C=1SC(=CC1N)Br | C6H6BrNO2S
reactant | 2,2-dimethyl-[1,3]dioxan-5-one | 2.12 mmol, 253 μl | CC1(OCC(CO1)=O)C | C6H10O3
reactant | dibutyltin dichloride | 0.11 mmol, 32 mg | C(CCC)[Sn](CCCC)(Cl)Cl
reactant | phenyl silane | 2.27 mmol, 280 μl | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-(2,2-dimethyl-[1,3]dioxan-5-ylamino)-thiophene-2-carboxylic acid methyl ester | 220 mg, 29% | COC(=O)C=1SC(=CC1NC1COC(OC1)(C)C)Br | C12H16BrNO4S
